US04122186
(1) 3,4-Dimethoxybenzylthio-acetic acid
13.07 g (0.172 mol) of thiourea and 86 ml of water are introduced into a 1 liter 3-necked flask equipped with a magnetic stirrer and a condenser. The mixture is heated to 50°-60° C. and 32 g (0.172 mol) of 3,4-dimethoxybenzylchloride are added in a single operation. -- The reactants are heated to reflux and boiling is maintained for 15 mins; the solution becomes limpid. Thereafter the mixture is cooled and a solution of 27.52 g (0.688 mol) of NaOH in 43 ml of water is introduced dropwise at about 60° C. Heating under reflux is again carried out for 30 minutes, the mixture is cooled and a solution of sodium chloroacetate (obtained by neutralising 22.76 g of chloroacetic acid in 172 ml of water with 20.23 g of NaHCO3) is added dropwise at 60°-70° C. The whole is then heated under reflux for 30 minutes, cooled, filtered and then acidified with 3N HCl. After recrystallisation from toluene, 28.7 g of 3,4-dimethoxybenzylthio-acetic acid are obtained. Yield: 69%. Instantaneous melting point: 94° C.

reactant | thiourea | 0.172 mol, 13.07 g | NC(=S)N | CH4N2S
reactant | 3,4-dimethoxybenzylchloride | 0.172 mol, 32 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | NaOH | 0.688 mol, 27.52 g | [OH-].[Na+]
reactant | sodium chloroacetate | 172 ml, 22.76 g | ClCC(=O)[O-].[Na+]
solvent | water | 43 ml | O | H2O
solvent | water | 86 ml | O | H2O
product | 3,4-Dimethoxybenzylthio-acetic acid | Yield: 69% | COC=1C=C(CCC(=S)O)C=CC1OC | C11H14O3S
